US07612055B2
a) [(3S,6S,14R,16S)-16-((1S,3R)-3-Butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester
A solution of 183 mg (0.37 mmol) [(3S,6S,14R,16S)-3,14-dimethyl-16-((2S,4R)-4-methyl-5-oxo-tetrahydro-furan-2-yl)-2,5-dioxo-1,4diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester in 1.5 ml butylamine is heated to 65° C. under nitrogen for two hours. The reaction mixture is evaporated, the residue taken up in toluene and evaporated to dryness to yield the title compound.

reactant | [(3S,6S,14R,16S)-3,14-dimethyl-16-((2S,4R)-4-methyl-5-oxo-tetrahydro-furan-2-yl)-2,5-dioxo-1,4diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester | 0.37 mmol, 183 mg | C(C)(C)(C)OC(N[C@@H]1C(N[C@H](C(N[C@@H](C[C@@H](CCC=CCCC1)C)[C@H]1OC([C@@H](C1)C)=O)=O)C)=O)=O | C26H43N3O6
solvent | butylamine | 1.5 ml | C(CCC)N | C4H11N
product | [(3S,6S,14R,16S)-16-((1S,3R)-3-Butylcarbamoyl-1-hydroxy-butyl)-3,14-dimethyl-2,5-dioxo-1,4diaza-cyclohexadec-10-en-6-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N[C@H](C(N[C@@H](C[C@@H](CCC=CCCC1)C)[C@H](C[C@@H](C)C(NCCCC)=O)O)=O)C)=O)=O | C30H54N4O6
